US05021432
6-Cyano-3,4-epoxy-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran (5.0 g) and 4.0 g of acetohydrazide were dissolved in 20 ml of ethanol and the solution was heated under reflux for 9 hours. After the reaction, the ethanol was distilled off under reduced pressure and the residue was crushed by adding ice water and filtered to obtain crystals. The crystals were dried and recrystallized from ethyl acetate-ethanol (7:1) to give 5.3 g of trans-4-(2-acetylhydrazino)-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol as white crystals, m.p. 209°-210° C.

reactant | 6-Cyano-3,4-epoxy-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran | 5.0 g | C(#N)C=1C=CC2=C(C3C(C(O2)(C)C)O3)C1 | C12H11NO2
reactant | acetohydrazide | 4.0 g | C(C)(=O)NN | C2H6N2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | trans-4-(2-acetylhydrazino)-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol | 5.3 g | C(C)(=O)NN[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C14H17N3O3
